US05834434
N-BOC-4-aminobenzoic acid
4-amino-benzoic acid (10 g, 72.9 mmol) was placed into a mixture of dioxane (145.8 ml) and 0.5M NaOH (145.8 ml). The solution was cooled to 0° C. and di-t-butyl dicarbonate (23.87 g, 109.5 mmol) was added. The reaction mixture was allowed to warm to room temperature and stirred overnight. The next day, the dioxane was removed, the residue was made acidic and extracted into ethyl acetate. The ethyl acetate fractions were combined and washed with 1N HCl to remove any unreacted starting material. The solution was dried over Na2SO4 and the solvent was removed in vacuo. The crude material was recrystallized from ethyl acetate/hexanes to yield 12.2 g (70.6%) of pure product. mp 189°-190° C.; 1H NMR (CD3OD) 1. 52 (9 H,s), 7.49 (2 H, d, J=8.6 Hz), 7.91 (2 H, d, J=8.6 Hz), 9.28 (1 H, s); 13C NMR (CD3OD) 28.59, 81.29, 118.54, 125.30, 131.81, 145.70, 155.00, 169.80; anal. calc. for C12 H15NO4, C: 60.76, H: 6.37, N: 5.90; found, C: 60.52, H: 6.43, N: 5.83; HRMS calc. for C12H15NO4, 237.0961, found, 237.1001.

reactant | 4-amino-benzoic acid | 72.9 mmol, 10 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | NaOH | 0.5M, 145.8 ml | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 109.5 mmol, 23.87 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 145.8 ml | O1CCOCC1 | C4H8O2
product | N-BOC-4-aminobenzoic acid | 12.2 g, 70.6% | C(=O)(OC(C)(C)C)NC1=CC=C(C(=O)O)C=C1 | C12H15NO4
